US05214037
To a solution of 5-chloromethylthio-2-methyltetrazole (987 mg : 6.0 mMol.) in acetone (10 ml) is added sodium iodide (1.78 g : 12.00 mMol.), and the mixture is stirred at 50° C. for 3 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and concentrated to give 5-iodomethylthio-2-methyltetrazole (1.43 9) as yellow oil.

reactant | 5-chloromethylthio-2-methyltetrazole | 6.0 mMol, 987 mg | ClCSC=1N=NN(N1)C | C3H5ClN4S
reactant | sodium iodide | 12.00 mMol, 1.78 g | [I-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 5-iodomethylthio-2-methyltetrazole | ICSC=1N=NN(N1)C | C3H5IN4S
